US08440652B2
To a solution of 6-bromo-1,1-dimethyl-2,3-dihydro-1H-indene (3.6 g, 16 mmol) in acetic acid (50 mL) was added to a solution of CrO3 (9.6 g, 96.0 mmol) in 50% aqueous acetic acid (50 mL). This solution was heated for 3 h at 60° C. At completion, the reaction mixture was quenched by the addition of isopropanol (20 mL). The quenched reaction was partitioned between EtOAc (200 mL) and a 0.25 M aqueous NaOH (100 mL). The layers were separated and the organics were extracted with EtOAc (2×100 mL). The combined organics were washed with brine, dried over Na2SO4, filtered and concentrated. After purification by flash chromatography over silica gel (50% EtOAc/hexanes eluent), 5-bromo-3,3-dimethyl-2,3-dihydro-1H-inden-1-one (2.91 g, 76% yield) was isolated as a white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.65 (s, 1H), 7.47-7.58 (m, 2H), 2.58 (s, 2H), 1.42 (s, 6H); MS (EI) m/z=240.1 [M+1]+.

reactant | 6-bromo-1,1-dimethyl-2,3-dihydro-1H-indene | 16 mmol, 3.6 g | BrC1=CC=C2CCC(C2=C1)(C)C | C11H13Br
reactant | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 5-bromo-3,3-dimethyl-2,3-dihydro-1H-inden-1-one | 2.91 g, 76% yield | BrC=1C=C2C(CC(C2=CC1)=O)(C)C | C11H11BrO
